### PR TITLE
[Merged by Bors] - feat(Data/Finsupp/Order): `{map,emb}Domain` preserve tsub

### PR DESCRIPTION
**Pull request by Hagb**
`mapDomain` by an injective map, and `embDomain`, preserve truncated subtraction.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Order.lean [hunk 1]
```diff
@@ -242,6 +242,19 @@ theorem subset_support_tsub [DecidableEq ι] {f1 f2 : ι →₀ α} :
     f1.support \ f2.support ⊆ (f1 - f2).support := by
   simp +contextual [subset_iff]
 
+lemma mapDomain_tsub {f : ι → κ} (h : f.Injective) (f1 f2 : ι →₀ α) :
+    (f1 - f2).mapDomain f = f1.mapDomain f - f2.mapDomain f := by
+  ext y
+  rw [tsub_apply]
+  wlog h : y ∈ Set.range f
```
Comment (urkud) [inline Mathlib/Data/Finsupp/Order.lean]: I would use `by_cases h : y ∈ Set.range f`. IMHO, `wlog` is for proofs where you deduce one case from the other.

Comment (Hagb) [reply Mathlib/Data/Finsupp/Order.lean]: Thanks!

File: Mathlib/Data/Finsupp/Order.lean [hunk 2]
```diff
@@ -242,6 +242,19 @@ theorem subset_support_tsub [DecidableEq ι] {f1 f2 : ι →₀ α} :
...
   simp +contextual [subset_iff]
 
+lemma mapDomain_tsub {f : ι → κ} (h : f.Injective) (f1 f2 : ι →₀ α) :
+    (f1 - f2).mapDomain f = f1.mapDomain f - f2.mapDomain f := by
+  ext y
+  rw [tsub_apply]
+  by_cases! h : y ∉ Set.range f
+  · simp [mapDomain_notin_range _ _ h]
+  obtain ⟨x, rfl⟩ := h
+  simp [mapDomain_apply h _ x]
```
Comment (ocfnash) [inline Mathlib/Data/Finsupp/Order.lean]: Style nit (mostly renaming the cases hypothesis to `hy` to avoid shadowing argument `h`)
```suggestion
  by_cases! hy : y ∉ Set.range f
  · simp [mapDomain_notin_range _ _ hy]
  · obtain ⟨x, rfl⟩ := hy
    simp [mapDomain_apply h]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
